US07217714B1
tert-Butyl 4-(3-isobutyl-1,2,4-oxadiazol-5-yl)-1-piperidinecarboxylate
Isovaleronitrile (14.1 g, 170 mmol) and hydroxylamine hydrochloride (60 g, 850 mmol) were heated under reflux in methanol (300 ml) and water (300 ml) for 5 hours. The reaction mixture was cooled to room temperature, solid sodium carbonate added cautiously and the mixture filtered. The filtrate was concentrated under reduced pressure and extracted with dichloromethane (3×). The combined organic solutions were washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure to give a white solid, 15.5 g. In a separate flask 1-(tert-butoxycarbonyl)4-piperidinecarboxylic acid (250 mg, 1.09 mmol) in dichloromethane (5 ml) was treated with diisopropylethylamine (0.28 ml, 2.70 mmol). Bis(tetramethylene)fluoroformamidinium hexafluorophosphate (413 mg, 1.31 mmol) in dichloromethane (5 ml) was added to the solution and stirred at room temperature for 1 hour. A portion of the intermediate white solid (150 mg, 1.31 mmol) and diisopropylethylamine (0.23 ml, 1.09 mmol) in dichloromethane (2 ml) were added, the resulting solution was stirred at room temperature for 16 hours, then heated to 50° C. to concentrate the solution. Dioxane (10 ml) was added and the solution heated to 120° C. for 3 hours. The reaction was cooled to room temperature, diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate solution and 1M citric acid solution. The combined organic solutions were dried (MgSO4), filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, using ethyl acetate: pentane (25:75) as eluant to afford the title compound as an oil, 209 mg.

reactant | Isovaleronitrile | 170 mmol, 14.1 g | C(CC(C)C)#N | C5H9N
reactant | hydroxylamine hydrochloride | 850 mmol, 60 g | Cl.NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(tert-butoxycarbonyl)4-piperidinecarboxylic acid | 1.09 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | diisopropylethylamine | 2.70 mmol, 0.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Bis(tetramethylene)fluoroformamidinium hexafluorophosphate | 1.31 mmol, 413 mg | C1CCN(C1)C(=[N+]2CCCC2)F.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.09 mmol, 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 300 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | tert-Butyl 4-(3-isobutyl-1,2,4-oxadiazol-5-yl)-1-piperidinecarboxylate | C(C(C)C)C1=NOC(=N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H27N3O3
